US06953790B2
Step C. Benzyl 4-(6-oxo-6,7-dihydro-5H-imidazo[4,5-c]pyridazin-5-yl)piperidine-1-carboxylate
Benzyl 4-(5-allyl-2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxylate (0.480 g, 1.34 mmol) was dissolved in THF (5 mL), and osmium tetroxide (0.05 mL, 2.5% solution in t-butanol) was added followed by a solution of sodium periodate (0.862 g, 4.03 mmol) in water (4 mL). After 24 h, the reaction was diluted with saturated aqueous Na2SO3 and NaHCO3 and extracted with ethyl acetate (4×). The combined organic washes were dried over sodium sulfate, filtered and evaporated to give the crude aldehyde (0.352 g). To a portion of this material (0.250 g, 0.696 mmol) in acetic acid (10 mL) was added hydrazine (0.446 ML, 13.9 mmol). This mixture was heated at 50° C. for 24 h, and then concentrated to dryness. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the product (0.032 g). MS 354.2 (M+1).

reactant | Benzyl 4-(5-allyl-2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxylate | 1.34 mmol, 0.480 g | C(C=C)C1C(NC(N1C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)=O | C19H23N3O4
reactant | sodium periodate | 4.03 mmol, 0.862 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | hydrazine | 13.9 mmol | NN | H4N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
solvent | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | osmium tetroxide | 0.05 mL | [Os](=O)(=O)(=O)=O
product | Benzyl 4-(6-oxo-6,7-dihydro-5H-imidazo[4,5-c]pyridazin-5-yl)piperidine-1-carboxylate | 0.032 g | O=C1N(C2=C(N=NC=C2)N1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H19N5O3
